US05160662
15.6 g of boron tribromide, were dissolved in 100 ml of methylene chloride and cooled to -10° C. To this, 80 ml of methylene chloride solution of 6.0 g oa (6-methoxy-2-naphthyl)-propanonitrile were added dropwise over 2 hours, followed by stirring for 7 hours at room temperature. The resulting reaction mixture was poured into 500 ml of iced water and extracted with ether, followed by washing the ether phase twice with water and then distilling off the solvent. The resulting solid was recrystallized with chloroformhexane mixture to obtain 4.5 g of oa (6-hydroxy-2-naphthyl)-propanonitrile.

reactant | boron tribromide | 15.6 g | B(Br)(Br)Br | BBr3
reactant | (6-methoxy-2-naphthyl)-propanonitrile | COC=1C=C2C=CC(=CC2=CC1)C(C#N)C | C14H13NO
reactant | water | 500 ml | O | H2O
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 80 ml | C(Cl)Cl | CH2Cl2
product | (6-hydroxy-2-naphthyl)-propanonitrile | OC=1C=C2C=CC(=CC2=CC1)C(C#N)C | C13H11NO
